US08022205B2
2-(4-Methyl-piperazin-1-yl)-pyridin-4-ylamine
4-Amino-2-chloropyridine (180 mg, 1.4 mmol) was dissolved in 1-methylpiperazine (1 ml), followed by heating at 135° C. for 16 hours in a pressure vessel. After cooling to room temperature, methanol (2 ml) and diethyl ether (2 ml) were added, and the deposited precipitate was filtered off. The resulting solid was washed with cooled diethyl ether followed by drying, to obtain a colorless crystal powder (50 mg, 18.6% yield).

reactant | 4-Amino-2-chloropyridine | 1.4 mmol, 180 mg | NC1=CC(=NC=C1)Cl | C5H5ClN2
reactant | methanol | 2 ml | CO | CH4O
reactant | diethyl ether | 2 ml | C(C)OCC | C4H10O
reactant | 1-methylpiperazine | 1 ml | CN1CCNCC1 | C5H12N2
product | 2-(4-Methyl-piperazin-1-yl)-pyridin-4-ylamine | 50 mg, 18.6% yield | CN1CCN(CC1)C1=NC=CC(=C1)N | C10H16N4
